US07452886B2
A. (5-Bromo-2-chloro-pyrimidin-4-yl)-isobutyl-amine
To a solution of 5-bromo-2,4-dichloropyrimidine (14.0 mmol) in methanol (30 ml) is added isobutylamine (28.0 mmol) at room temperature. The mixture is stirred at room temperature for one day and diluted with AcOEt. The organic layer is washed with water and brine, dried over sodium sulfate and concentrated. Chromatography on silica gel (n-hexane and n-hexane:AcOEt=25:1) gives the product in 78% yield. Rf=0.52 (n-hexane:AcOEt=4:1)

reactant | 5-bromo-2,4-dichloropyrimidine | 14.0 mmol | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | isobutylamine | 28.0 mmol | C(C(C)C)N | C4H11N
reactant | n-hexane | CCCCCC | C6H14
solvent | methanol | 30 ml | CO | CH4O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | (5-Bromo-2-chloro-pyrimidin-4-yl)-isobutyl-amine | 78% yield | BrC=1C(=NC(=NC1)Cl)NCC(C)C | C8H11BrClN3
